US08871767B2
6-ethoxy-2-(3-(pyridin-2-yl)-4-(trifluoromethyl)phenyl)imidazo[1,2-b]pyridazine
To a solution of 2-(3-bromo-4-(trifluoromethyl)phenyl)-6-ethoxyimidazo[1,2-b]pyridazine (0.025 g, 0.0647 mmol) in THF (0.647 mL) containing pyridin-2-ylzinc(II) bromide (0.323 mmol) is added Pd(dppf)Cl2 (0.0194 mmol). The mixture is heated at 60° C. for 12 hours, then cooled, quenched with sat. aqueous NaHCO3 (1 mL) and extracted with CH2Cl2 (3×3 mL). Organic layer is collected and concentrated to dryness. The crude product is purified via preparative TLC using CH2Cl2:EtOAc:methanol (1:1:0.1) to afford 0.0022 g (9%) of the title compound as a white solid: Rf 0.35 (1:1 EtOAc:hexanes); LCMS (m/z)=385.4 [M+H]+, tR=2.69 min. (compound same as Example 218)

reactant | 2-(3-bromo-4-(trifluoromethyl)phenyl)-6-ethoxyimidazo[1,2-b]pyridazine | 0.0647 mmol, 0.025 g | BrC=1C=C(C=CC1C(F)(F)F)C=1N=C2N(N=C(C=C2)OCC)C1 | C15H11BrF3N3O
reactant | pyridin-2-ylzinc(II) bromide | 0.323 mmol | [Br-].N1=C(C=CC=C1)[Zn+]
solvent | THF | 0.647 mL | C1CCOC1 | C4H8O
catalyst | Pd(dppf)Cl2 | 0.0194 mmol | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 6-ethoxy-2-(3-(pyridin-2-yl)-4-(trifluoromethyl)phenyl)imidazo[1,2-b]pyridazine | 0.0022 g, 9% | C(C)OC=1C=CC=2N(N1)C=C(N2)C2=CC(=C(C=C2)C(F)(F)F)C2=NC=CC=C2 | C20H15F3N4O
